US04602020
1,3-dihydro-3-propyl-6-methylaminomethyl-7-hydroxy-furo-(3,4-c)-pyridine
The method of example 1 was repeated, but starting with 1,3-dihydro-3-propyl-6-chloromethyl-7-benzoxy-furo-(3,4-c)-pyridine and gaseous methylamine dissolved in benzene. Yield 66% of an oily product, elemental analysis of which showed good correspondence with the formula C12H18N2O2.HCl.

reactant | 1,3-dihydro-3-propyl-6-chloromethyl-7-benzoxy-furo-(3,4-c)-pyridine | C(CC)C1OCC2=C1C=NC(=C2OCC2=CC=CC=C2)CCl | C18H20ClNO2
reactant | methylamine | CN | CH5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,3-dihydro-3-propyl-6-methylaminomethyl-7-hydroxy-furo-(3,4-c)-pyridine | Yield 66% | C(CC)C1OCC2=C1C=NC(=C2O)CNC | C12H18N2O2
